US05466687
1-tert.Butoxycarbonyl- 4-[4-(2-oxazolin-2-yl)benzyl)piperidine
2.4 g (7 mmool) of 1-tert.butoxycarbonyl-4-[4-(2-oxazolin-2-yl)benzylidene]piperidine, dissolved in 70 ml of anhydrous ethanol and 20 ml of ethyl acetate, are catalytically hydrogenated (ambient temperature, 20 minutes, hydrogen pressure 50 psi) in the presence of 2.5 g of palladium-carbon (10%). The catalyst is suction-filtered, the filtrate is evaporated down and the residue is reacted further without purification.

reactant | 1-tert.butoxycarbonyl-4-[4-(2-oxazolin-2-yl)benzylidene]piperidine | 2.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=CC=C(C=C1)C=1OCCN1 | C20H26N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 2.5 g | [C].[Pd]
product | 1-tert.Butoxycarbonyl- 4-[4-(2-oxazolin-2-yl)benzyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C=C1)C=1OCCN1 | C20H28N2O3
